US08283354B2
TFA (1 mL) was added to a solution of (S)-tetrahydrofuran-3-yl(R)-1-(tert-butoxycarbonyl)pyrrolidin-3-ylcarbamate (490 mg, 1.63 mmol) in 5 mL CH2Cl2. After stirring for 30 min, the reaction was quenched with NaOH and extracted twice with EtOAc. The organic extracts were combined, dried over MgSO4, filtered, and concentrated to yield (S)-tetrahydrofuran-3-yl(R)-pyrrolidin-3-ylcarbamate (230 mg) which was used without further purification. LC/MS: m/z 201.3 (M+H)+ at 0.59 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (S)-tetrahydrofuran-3-yl(R)-1-(tert-butoxycarbonyl)pyrrolidin-3-ylcarbamate | 1.63 mmol, 490 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O | C14H24N2O5
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tetrahydrofuran-3-yl(R)-pyrrolidin-3-ylcarbamate | 230 mg | N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O | C9H16N2O3
